US04159331
In the manner given in Example 9, part E, 2-chloro-4,6-dimethylpyrimidine is heated with [[4-[(7-chloro-4-quinolinyl)amino]phenyl]sulfonyl]piperazine to give 1-[(4,6-dimethyl-2-pyrimidinyl)]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]piperazine.

reactant | 2-chloro-4,6-dimethylpyrimidine | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | [[4-[(7-chloro-4-quinolinyl)amino]phenyl]sulfonyl]piperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C19H19ClN4O2S
product | 1-[(4,6-dimethyl-2-pyrimidinyl)]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]piperazine | CC1=NC(=NC(=C1)C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C25H25ClN6O2S
